US08809012B2
Step 3: Synthesis of 2-(N-octyloctanamido)acetic acid
Methyl 2-(N-octyloctanamido)acetate (44.7 mg, 0.136 mmol) was dissolved in 0.5 mL of methanol and then 100 μL of 20% aqueous sodium hydroxide solution was added. The reaction mixture was then stirred for 2 hours at room temperature. Upon completion of the reaction, the reaction solution was diluted with 3 mL of ethyl acetate and then neutralized by adding 200 μL of 10% aqueous hydrogen chloride solution. After removing water with anhydrous magnesium sulfate and filtering out the precipitate, the resulting solution was concentrated by distillation under reduced pressure and purified by column chromatography to obtain 36.5 mg (0.116 mmol, 86%) of the desired compound.

reactant | Methyl 2-(N-octyloctanamido)acetate | 0.136 mmol, 44.7 mg | C(CCCCCCC)N(C(CCCCCCC)=O)CC(=O)OC | C19H37NO3
reactant | sodium hydroxide | 100 μL | [OH-].[Na+]
reactant | hydrogen chloride | 200 μL | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 2-(N-octyloctanamido)acetic acid | 0.116 mmol, 36.5 mg, 86% | C(CCCCCCC)N(C(CCCCCCC)=O)CC(=O)O | C18H35NO3
